US04275077
4-(α-Naphthoxy)-aniline
A mixture of 1.5 liters of water, 40 ml of glacial acetic acid and 1.0 mol of 4-(α-naphthoxy)-nitrobenzene was heated to boiling while stirring. After the boiling temperature had been reached, 200 g of iron powder were added in small portions. When the addition was finished, it was refluxed for 6 hours, while stirring.

reactant | water | 1.5 liters | O | H2O
reactant | 4-(α-naphthoxy)-nitrobenzene | 1.0 mol | C1(=CC=CC2=CC=CC=C12)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H11NO3
catalyst | iron | 200 g | [Fe] | Fe
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 4-(α-Naphthoxy)-aniline | C1(=CC=CC2=CC=CC=C12)OC1=CC=C(N)C=C1 | C16H13NO
